US07989461B2
To 6-methyl-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine (0.040 g, 0.12 mmol), charged to a 5 mL microwave reaction vessel, 2-bromo-1-methyl-4-(trifluoromethyl)benzene (0.044 g, 0.18 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.016 g, 0.027 mmol), cesium carbonate (0.056 g, 0.17 mmol), and tris(dibenzylideneacetone)dipalladium (o) (0.011 g, 0.012 mmol) were added. The reagents were then suspended in dioxane (2.0 mL). The reaction mixture was stirred at 140° C. for 1 hrs. The reaction mixture was cooled and diluted with excess EtOAc, and partioned with aqueous sodium carbonate. The aqueous layer was back extracted 2× EtOAc. The combined organics were washed with brine, dried with magnesium sulfate and concentrated under vacuum. The resulting residue was loaded on to silica and purified by column Chromatography. (ISCO 40.0 g, 0.5-5% MeOH in DCM, 30 min.) to give 6-methyl-N1-(2-methyl-5-(trifluoromethyl)phenyl)-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine as a solid after treatment with diethyl ether. MS (M+H)+ 487.

reactant | 6-methyl-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine | 0.12 mmol, 0.040 g | CC1=C(C=2C=CN=C(C2C=C1)N)NC1=NC=CC=C1C1=NC=NC=C1 | C19H16N6
reactant | 2-bromo-1-methyl-4-(trifluoromethyl)benzene | 0.18 mmol, 0.044 g | BrC1=C(C=CC(=C1)C(F)(F)F)C | C8H6BrF3
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.027 mmol, 0.016 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 0.17 mmol, 0.056 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.012 mmol, 0.011 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-methyl-N1-(2-methyl-5-(trifluoromethyl)phenyl)-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine | CC1=C(C=2C=CN=C(C2C=C1)NC1=C(C=CC(=C1)C(F)(F)F)C)NC1=NC=CC=C1C1=NC=NC=C1 | C27H21F3N6
